US06716856B1
Preparation of 3,6,6-Trimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indazole.
A mixture of 2-acetyl-5,5-dimethyl-cyclohexane-1,3-dione (2 g, 11.04 mmol), prepared as described in example 2, and hydrazine hydrate (1.66 ml, 33.13 mmol) in ethanol (25 ml) was stirred at room temperature for about 3 hours and then the solvent was evaporated. The residue was dissolved in dichloromethane, washed with water and brine, dried over sodium sulfate and evaporated. The title compound was obtained after chromatography on silica gel (dichloromethane:methanol=95:5) as a colourless solid (0.8 g, 45%): m.p. 103-104° C.

reactant | 2-acetyl-5,5-dimethyl-cyclohexane-1,3-dione | 11.04 mmol, 2 g | C(C)(=O)C1C(CC(CC1=O)(C)C)=O | C10H14O3
reactant | hydrazine hydrate | 33.13 mmol, 1.66 ml | O.NN
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3,6,6-Trimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indazole | CC1=NNC=2CC(CC(C12)=O)(C)C | C10H14N2O
